US06825354B2
Ethyl(3-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate was prepared according to the general method as outlined in example 1 (step 1), starting from ethyl bromo(3-chlorophenyl)acetate (6.16 g, 16.5 mmol) and 4-mercaptophenol (2.08 g, 16.5 mmol); 4.36 g clear oil. Yield 82%; MS: 321 (M−H)−

reactant | ethyl bromo(3-chlorophenyl)acetate | 16.5 mmol, 6.16 g | BrC(C(=O)OCC)C1=CC(=CC=C1)Cl | C10H10BrClO2
reactant | 4-mercaptophenol | 16.5 mmol, 2.08 g | SC1=CC=C(C=C1)O | C6H6OS
product | Ethyl(3-chlorophenyl)[(4-hydroxyphenyl)sulfanyl]acetate | Yield 82% | C(C)OC(C(SC1=CC=C(C=C1)O)C1=CC(=CC=C1)Cl)=O | C16H15ClO3S
